* C:\Users\carri\OneDrive\Desktop\Master's Thesis\AtInverter\sims\AC_Voltage_Sensing2.asc
L1 P_AC-_1 P_AC+_1 17
L2 Vac_samp- Vac_samp+ 17
Rlim P_AC+_1 Vac_in+ 33k
Rsamp Vac_samp+ Vac_samp- 6.8
Ccoup1 N004 Vac_samp+ 1µ
Rin1 N001 N004 10k
Rbias1 Vac_samp- Vcc 10k
Rbias2 Vac_samp- 0 10k
V1 Vcc 0 5
XU1 Vac_samp- N001 Vcc 0 Vout1 LT1001
Clp1 Vout1 N001 100p
Rfb1 Vout1 N001 100k
Rtune2 Vtune 0 50k
Ccoup2 N005 Vtune 1µ
Rin2 N002 N005 10k
XU2 N003 N002 Vcc 0 Vac_sense LT1001
Clp2 Vac_sense N002 100p
Rfb2 Vac_sense N002 100k
Rbias3 Vcc N003 10k
Rbias4 N003 0 10k
V2 Vac_in+ 0 SINE(0 24 60)
V3 P_AC-_1 0 SINE(0 24 60 0 0 180)
Rtune1 Vout1 Vtune 50k
K L1 L2 1
.tran 100m
* 3 Gains: \n- x10, Gamp1 from first op amp inverting configuration (-Rfb1/Rin1)\n- 0-1, Gtune from potentiometer (Rtune1 and Rtune2)\n- x10, Gamp2 from second op amp inverting configuration (-Rfb2/Rin2)
.lib LTC.lib
.backanno
.end
