* source 12V_BOOST_CONVERTER
X_U1         N00218 N00218 0 N00186 N00285 N00417 TLV61046A_TRANS PARAMS:
+  STEADY=0
V_V1         N00218 0 5Vdc
L_L1         N00218 N00417  12uH  
C_C1         0 N00218  3u  TC=0,0 
R_R1         N00186 N00285  1M TC=0,0 
R_R2         0 N00186  71.5k TC=0,0 
C_C2         0 N00285  10u  TC=0,0 
I_I1         N00285 0 DC 0.06Adc  
